US07250417B2
A mixture of 6-bromo-1-(4-fluoro-benzyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine (100 mg, 0.32 mmol), 2-thiopheneboronic acid (44.8 mg, 0.35 mmol), Pd(PPh3)2Cl2 (11.3 mg, 0.016 mmol), and NaHCO3 (80.6 mg, 0.96 mmol) in DME (2 mL) and water (0.4 mL) was put in a microwave reaction tube and reacted in a microwave reactor at 120° C. for 15 minutes. The reaction mixture was partitioned in ethyl acetate and water, and the organic layer was evaporated. The residue was purified on a silica gel column eluting with EtOAc-Hexane to provide 1-(4-fluoro-benzyl)-6-thiophen-2-yl-1H-[1,2,3]triazolo[4,5-b]pyrazine (18 mg).

reactant | 6-bromo-1-(4-fluoro-benzyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine | 0.32 mmol, 100 mg | BrC1=CN=C2C(=N1)N(N=N2)CC2=CC=C(C=C2)F | C11H7BrFN5
reactant | 2-thiopheneboronic acid | 0.35 mmol, 44.8 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | NaHCO3 | 0.96 mmol, 80.6 mg | C(=O)(O)[O-].[Na+]
solvent | DME | 2 mL | COCCOC | C4H10O2
solvent | water | 0.4 mL | O | H2O
catalyst | Pd(PPh3)2Cl2 | 0.016 mmol, 11.3 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(4-fluoro-benzyl)-6-thiophen-2-yl-1H-[1,2,3]triazolo[4,5-b]pyrazine | 18 mg | FC1=CC=C(CN2N=NC=3C2=NC(=CN3)C=3SC=CC3)C=C1 | C15H10FN5S
